US07582631B2
(S)-{4-[6-(5-Isopropyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2-methylsulfanyl-pyrimidin-4-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
The mixture of 0.13 g (0.31 mmol) {4-[6-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2-methylsulfanyl-pyrimidin-4-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine in 5 mL chloroform was treated with 0.2 mL (3.1 mmol) acetone, 0.19 g (3.1 mmol) NaBH3(CN) and 1 mL methanol. The mixture was stirred at rt for 15 h. MS showed all starting materials were converted. The mixture was diluted with 100 mL DCM, washed with 20 mL sat. NaHCO3, dried over anhydrous Na2SO4. After purification by chromatography, the title compound was obtained as a yellow solid. MS (ES+): 461 (M+H)+.

reactant | {4-[6-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2-methylsulfanyl-pyrimidin-4-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.31 mmol, 0.13 g | C12N(CC(NC1)C2)C2=CC(=NC(=N2)SC)C2=CC(=NC=C2)NC(C)C2=CC=CC=C2 | C23H26N6S
reactant | acetone | 3.1 mmol, 0.2 mL | CC(=O)C | C3H6O
reactant | methanol | 1 mL | CO | CH4O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[6-(5-Isopropyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2-methylsulfanyl-pyrimidin-4-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | C(C)(C)N1[C@@H]2CN([C@H](C1)C2)C2=CC(=NC(=N2)SC)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C26H32N6S
